US06841183B2
The resulting oil was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=19/1), and a fraction containing a desired compound was concentrated to obtain 4.64 g (24.1 mmol) of 2-ethoxy-7-methylchroman as pale-yellow oil. To 4.59 g (23.9 mmol) of the resulting 2-ethoxy-7-methylchroman were added 75 ml of acetonitrile, 25 ml of water and 5.3 ml (60.0 mmol) of a 35% hydrochloric acid aqueous solution, and the reaction was conducted at 60° C. for 1 hour with stirring. After the completion of the reaction, the reaction solution was extracted by adding thereto 50 ml of water and 200 ml of diethyl ether to obtain an organic layer. Further, the aqueous layer was re-extracted by adding thereto 100 ml of diethyl ether, and the thus obtained ether layer was combined with the organic layer obtained earlier. The organic layer was washed twice with 100 ml of a saturated aqueous solution of sodium bicarbonate and then with 100 ml of a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. Magnesium sulfate was then removed by filtration, and the filtrate was vacuum-concentrated to obtain 3.90 g of oil. This oil was homogenized by adding thereto 0.5 ml of ethyl acetate and 10 ml of hexane at 60° C., and cooled to 5° C. for crystallization to precipitate crystals. Further, the mother liquor was vacuum-concentrated, and then purified by silica gel column chromatography (eluent: hexane/ethyl acetate=7/1), and a fraction containing a desired compound was concentrated. This concentrated solution was homogenized by adding thereto 15 ml of hexane, and cooled to 5° C. for crystallization to precipitate crystals. These crystals were collected by filtration, and vacuum-dried at room temperature for 7 hours to obtain 2.68 g (16.3 mmol) of 2-hydroxy-7-methylchroman.

reactant | ethyl acetate | 0.5 ml | C(C)(=O)OCC | C4H8O2
reactant | hexane | 10 ml | CCCCCC | C6H14
product | 2-hydroxy-7-methylchroman | 16.3 mmol, 2.68 g | OC1OC2=CC(=CC=C2CC1)C | C10H12O2
